USH0000386
2-(1,2-Dichloroethen-1yloxy)-N-[(5,6-dihydro-4-methylfuro[2,3-d]pyrimidin-2-yl)aminocarbonyl]-benzenesulfonamide
To 300 mg of 2-amino-5,6-dihydro-4-methylfuro[2,3-d]pyrimidine in 25 ml of methylene chloride was added 20 ml of 2-(1,2-dichloroethen-1-yloxy)benzenesulfonyl isocyanate in methylene chloride from the previous example. After heating to reflux, the mixture was stirred overnight at room temfperature. Removal of the solvent in vacuo yielded an amber oil. Trituration of this oil with 1-chlorobutane gave a tan solid. After filtration and washing with ethyl ether, a yield of 0.8 g of a tan solid melting at 208°-210° was obtained.

reactant | 2-amino-5,6-dihydro-4-methylfuro[2,3-d]pyrimidine | 300 mg | NC=1N=C(C2=C(N1)OCC2)C | C7H9N3O
reactant | 2-(1,2-dichloroethen-1-yloxy)benzenesulfonyl isocyanate | 20 ml | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H5Cl2NO4S
reactant | 1-chlorobutane | ClCCCC | C4H9Cl
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(1,2-Dichloroethen-1yloxy)-N-[(5,6-dihydro-4-methylfuro[2,3-d]pyrimidin-2-yl)aminocarbonyl]-benzenesulfonamide | yield of 0.8 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC=1N=C(C2=C(N1)OCC2)C | C16H14Cl2N4O5S
